US04731374
6-Acetylamino-2-benzoylamino-4,5,6,7-tetrahydro-benzthiazole
To a solution of 4.2 g (0.02 Mol) of 6-acetylamino-2-amino-4,5,6,7-tetrahydro-benzthiazole in 100 ml of absolute tetrahydrofuran are added 2.2 g (0.022 Mol) of triethylamine and 3.1 (0.022 Mol) of benzoylchloride and the mixture is refluxed for 3 hours. The reaction mixture is mixed with water and extracted with ethyl acetate. The organic phase is concentrated by evaporation. The residue is recrystallized from methanol.

reactant | 6-acetylamino-2-amino-4,5,6,7-tetrahydro-benzthiazole | 0.02 Mol, 4.2 g | C(C)(=O)NC1CC2=C(N=C(S2)N)CC1 | C9H13N3OS
reactant | triethylamine | 0.022 Mol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-Acetylamino-2-benzoylamino-4,5,6,7-tetrahydro-benzthiazole | C(C)(=O)NC1CC2=C(N=C(S2)NC(C2=CC=CC=C2)=O)CC1 | C16H17N3O2S
